Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
"She just thinks I need medication she thinks I'm depressed...my 
mother brought me to the hospital...I'm not suicidal..we fought 
last ___ about me going to a pyschiatrist."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is an ___ yo cauc. female who was brought to the ED 
by
her mother on the recommendation of her psychiatrist with
concerns for the patient's safety around alcohol
consumption,shoplifting and "out of control behaviors " of not
coming home at ___. Her mother reportedly not knowing where she
is when she doesn't come home at ___{patient refutes and insists
her mother knows where she is}.
The patient said "she thinks that I have problems that need to 
be
fixed I don't think I have any problems. I met with her and my
psychiatrist once or twice I can't talk to him he's too old he
doesn't even know me." The patient said that she and her mother
are not getting along and said " she needs to know where I am
every second.. she thinks I'm going to be irresponsible I'm
always safe."
The patient said that " I feel insecure I'm hard on myself I 
feel
like I'm depressed I'm worried about college..I would never hurt
myself but I wouldn't mind being on antidepressants."
She expressed concerns about starting college, worries about
making  new friends, and if she will be able to keep up
academically.."what if its hard."
When further pressed about her suicidal ideation the patient
responed with "I was talking about my friend she's on
antidepressants and I said I wouldn't mind trying 
antidepressants
we were taking about suicide but I'd never do it I'm not
suicidal."
The patient said "my main focus has always been school second
semester in high school I started to have fun and its hard for 
my
mother to adjust to my starting @ U.Mass."
The patient said " there's nothing going on we just fight about
everything and we fought last ___ about me going to a
psychiatrist she thinks I have these problems that need to be
fixed.She refuses to let me go out she follows me around I'm not
allowed to drive a car because she won't pay for the insurance."
The patient said that she recently got arrested @ a ___ 
concert for possession of alcohol. "I don't think I'm fucked up
one time when we were talking I said 'if I can't go to school
I'll kill myself'".
In speaking with her mother she said the patient "is not
responding to limits that she doesn't come home at ___ and came
home @ 8:30 this morning.She has been binge drinking , was
arrested  for etoh possession at a concert and last ___ she
wouldn't tell her mother where she was.She said that she has 
been
"hanging out" with friends who have been arrested for drug
dealing. Her mother said that several months ago the patient 
told
her that she had texted her father that she wanted to kill
herself and was upset because her father apparently ___
respond. She has said to her mother when she is angry "I wish 
you
were dead ..I want to kill myself."
Mother reports that when the patient was a ___. in high school 
she
became so intoxicated that she was brought to the ED @ ___. The patient's friends had called her mother because
they ___ wake her up and mother brought her to the 
hospital.
In speaking with her psychiatrist he reports that the patient 
has
been "resistant to treatment and has persistently found a way to
avoid treatment and is willing to attend only under pressure 
from
her mother."He reports that she is abusing alcohol and hasn't
responded to her mother's limits. He reports there is heightened
tension between her and her mother and there is a level of chaos
that she is unwilling to acknowledge and is concerned about her
level of depression and anxiety.He reports that she vents her
rage at her mother, that she feels like a failure and often
negates positive feedback and has been concerned sbout her
flucutating weight and poor self image.He expressed concerns
about her shoplifting which he feels is an indicator of her
"flawed judgement and her poor self control."
Several months ago she had told him that she had made a "suicide
pact" with a friend  while drinking, obviously did not follow
through with it but also told him that she has [suicide] on her
mind periodically.He said that last noc was their last meeting 
as
the patient did not want to continue in treatment with him
preferring to work with a female therapist. He said that he is
concered that she will be heading off to college in a couple of
weeks, that her mother is stressed and most likely "burnt out"
and felt strongly that she needed to be hospitalized last noc 
but
her mother was reluctant.He is concerned that she has a number 
of
risk factors and advised her mother to take her to ___ said
last noc after they terminated he saw her crying on the 
elevator.
In speaking with ___ ,a substance abuse counselor who met
with her once in a lawyer's office with regard to her arrest for
etoh.He reports that she drinks daily, she talked about her
depression, that she has an impending court case and they came 
up
with a treatment recommendation that her lawyer could present to
the judge but she refused to sign it or engage in treatment.
 
Past Medical History:
PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR):

* psychiatrist ___ ___ with him
  for the last time last noc
* the patient was evaluated by ___ from ___ a private
  ___ treating substance abuse, she saw him once in
  ___ with an attorney. The patient was arrested for
  possession of alcohol while at a concert and her uncle 
  arranged for her to see an attorney. The attorney in a attempt
  to have her fine reduced before she has to be appear in court
  in ___. recommended that she be evaluated by a substance
  abuse counselor with the goal being that when she appeared in
  court the judge could "see that she was serious about getting
  treamtment".The patient did not sign the treatment plan and 
  did not want treatment.
* age ___ saw a therapist around her parents divorce
* no hx of hospitalization or si or sib

     ALLERGIES (INCLUDE REACTION, IF KNOWN):
nkda
 
Social History:
SUBSTANCE ABUSE HISTORY:
alcol: since jr yr in high school, drinks to intoxication and
       binge drinking, beer and vodka, has "passed out" denies
       w/d sz
drugs: hx of  mj use
tob : < 1ppd
caffeine: "occ coke"

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
mother ? of depression and antidepressant medications
father with ? etoh
maternal grandparents with etoh
 
Physical Exam:
MENTAL STATUS EXAM:
     APPEARANCE & FACIAL ___ yo cauc. female appearing
her age, dressed in hospital gown with adequate hygiene and
grooming and maintains eye contact
     POSTURE:lying on a stretcher
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS):none noted
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE):cooperative
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC,
ETC.):articulate
     MOOD:depressed
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS,
ETC.):labile, at times teary and verbally angry towards her
mother
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.):linear and 
logical
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):denies
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS):denies
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO):sleeps during the day "sometimes I 
have
a hard time falling asleep at noc, appetite, fluctuates, energy
"always tired" occ feels H+H
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT,
PLAN):currently denying si or hi but had told her psychiatrist
that she thinks bout it
     INSIGHT AND JUDGMENT:limited/limited
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT):alert
          ORIENTATION:" the ___ ___ US.
Pres."Obama"
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.):able to
serial 7's
          MEMORY (SHORT- AND LONG-TERM):3 out of 3 in 5'
          CALCULATIONS:9 quarters =$2.25
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE):wnl " the 
war
in ___
          PROVERB INTERPRETATION:Glass houses "people are
vunerable themselves"
          SIMILARITIES/ANALOGIES:apples/oranges "fruit"
 
Pertinent Results:
___ 11:00AM   GLUCOSE-85 UREA N-12 CREAT-0.6 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-109* TOTAL CO2-21* ANION GAP-15
___ 11:00AM   estGFR-Using this
___ 11:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  GR HOLD-HOLD
___ 11:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:00AM   WBC-6.5 RBC-4.01* HGB-12.1 HCT-36.2 MCV-90 
MCH-30.2 MCHC-33.4 RDW-13.3
___ 11:00AM   NEUTS-75.0* LYMPHS-17.9* MONOS-4.4 EOS-2.3 
BASOS-0.4
___ 11:00AM   PLT COUNT-260
___ 11:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
# Legal: ___
# Medical: The patient had no medical issues while on Deaconess 
4.  She was continued on her OCPs and her acne medications.

# Psychiatric: The patient was very upset about being 
hospitalized, and did not believe she needed inpatient care.  
She was given Ativan 0.5mg PO for sleep on her first night.  
During her second day, she again denied any need for inpatient 
care.  Her mother visited, and during a family meeting expressed 
agreement with outpatient care at ___, where the 
patient will be starting her studies in 2 weeks.  Also, her 
psychologist Dr. ___ was contacted, and he was in 
agreement with both discharging the patient and with having her 
follow-up with treaters at ___.  She was discharged to 
the care of her mother.
 
Medications on Admission:
1. Drospirenone-Ethinyl Estradiol ___ mg-mcg Tablet Sig: One 
(1) Tablet PO Daily ().  
2. Adapalene 0.3 % Gel Sig: One (1)  Topical QHS (once a day (at 
bedtime)) as needed for acne.  
3. Clindamycin Phosphate 1 % Gel Sig: One (1)  Topical Daily () 
as needed for acne.  
 
Discharge Medications:
1. Drospirenone-Ethinyl Estradiol ___ mg-mcg Tablet Sig: One 
(1) Tablet PO Daily ().  
2. Adapalene 0.3 % Gel Sig: One (1)  Topical QHS (once a day (at 
bedtime)) as needed for acne.  
3. Clindamycin Phosphate 1 % Gel Sig: One (1)  Topical Daily () 
as needed for acne.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: r/o EtOH dependence, adjustment disorder
Axis II: deferred
Axis III: denies
Axis IV: impending move to college, familial stressors
Axis V: 61

 
Discharge Condition:
VSS

MSE- Young WW in casual clothes, sitting in chair with legs 
drawn up under her.  Well groomed, appears stated age.  
Cooperative with interview.  Eye contact - appropriate.  Speech 
- normal rate and volume.  Mood - 'irritated.'  Affect - 
agitated, nervous.  TF - perseverates about not needing to be 
here.  TC - denies SI, HI, AVH, no evidence of delusions.  I/J - 
fair, fair.

 
Discharge Instructions:
Please arrange outpatient psychiatry follow-up at ___, 
as agreed.  Please attend scheduled appointments.

If you feel unsafe or that your symptoms have worsened, call ___ 
or go to your nearest emergency room.
 
Followup Instructions:
___